US07288547B2
A solution of 11.3 g (49.6 mmol) of a mixture that consists of 4-nitro-thiophene-2-sulfonyl chloride and 5-nitro-thiophene-2-sulfonyl chloride (ratio: 1.4/1.0) in acetone is added while being stirred to a saturated solution of ammonia in 170 ml of acetone at −35° C. After 30 minutes, the batch is filtered and concentrated by evaporation. The crude product is dissolved without further purification in 100 ml of ethanol. It is mixed with 6 g of Raney nickel and hydrogenated for 8 hours under low pressure at room temperature. The batch is filtered and concentrated by evaporation. 11.7 g of a mixture that consists of 4-amino-thiophene-2-sulfonic acid amide and 5-amino-thiophene-2-sulfonic acid amide is obtained at a ratio of 2:1, which is used without further purification.

reactant | 4-nitro-thiophene-2-sulfonyl chloride | [N+](=O)([O-])C=1C=C(SC1)S(=O)(=O)Cl | C4H2ClNO4S2
reactant | 5-nitro-thiophene-2-sulfonyl chloride | [N+](=O)([O-])C1=CC=C(S1)S(=O)(=O)Cl | C4H2ClNO4S2
reactant | ammonia | N | H3N
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 170 ml | CC(=O)C | C3H6O
product | 5-amino-thiophene-2-sulfonic acid amide | NC1=CC=C(S1)S(=O)(=O)N | C4H6N2O2S2
